US06307069B1
Then, the same reactor as above was charged with 226 g of acetyl-1,2-isopropylideneglycerol, 221 g of n-dodecanal and a solvent amount of toluene. Thereafter, p-toluenesulfonic acid was added as a catalyst and the acetal exchange reaction was carried out under reflux conditions. Then, a solution of sodium hydroxide in ethanol was added to decompose the ester moiety at the reflux temperature and the ethanol was distilled off under reduced pressure. The resulting crude product was extracted into diethyl ether and washed with 3 portions of distilled water. The diethyl ether layer was dehydrated over potassium carbonate and the diethyl ether was distilled off under reduced pressure. The residue was further purified by distillation under reduced pressure to provide 2-undecyl-4-hydroxymethyl-1,3-dioxolane.

reactant | n-dodecanal | 221 g | C(CCCCCCCCCCC)=O | C12H24O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-undecyl-4-hydroxymethyl-1,3-dioxolane | C(CCCCCCCCCC)C1OCC(O1)CO | C15H30O3
